US08211904B2
Step 3: 1-isopropyl-1H-indole-6-carbaldehyde
To a solution of (1-isopropyl-1H-indol-6-yl)methanol (0.18 g, 0.97 mmol) in CCl4(5 mL) was added manganese dioxide (0.13 g, 1.45 mmol). After stirring at 60° C. for 1 h, then 77° C. for 2 h, filtered reaction mixture through celite and concentrated. Partitioned crude compound between saturated sodium bicarbonate and EtOAc, washed with H2O and brine, dried with Na2SO4, and concentrated. The crude compound was chromatographed to give the desired product.

reactant | (1-isopropyl-1H-indol-6-yl)methanol | 0.97 mmol, 0.18 g | C(C)(C)N1C=CC2=CC=C(C=C12)CO | C12H15NO
solvent | CCl4 | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | manganese dioxide | 1.45 mmol, 0.13 g | [O-2].[O-2].[Mn+4]
product | 1-isopropyl-1H-indole-6-carbaldehyde | C(C)(C)N1C=CC2=CC=C(C=C12)C=O | C12H13NO
